US09238639B2
(7-Chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetic acid
To a mixture of methyl(7-chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate (218.9 mg), MeOH (2.0 mL) and THF (dry) (2.0 mL) was added 1N NaOH (1.643 mL) at room temperature. The mixture was stirred at room temperature for 2 h. The residue was concentrated. The residue was neutralized with 1N HCl, and the mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The precipitate was collected by filtration, and crystallized from EtOH-hexane to give the title compound (184 mg).

reactant | methyl(7-chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate | 218.9 mg | COC(CC1=COC2=C1C=CC(=C2Cl)OCC2=C(C=C(C=C2)Cl)Cl)=O | C18H13Cl3O4
reactant | MeOH | 2.0 mL | CO | CH4O
reactant | NaOH | 1N, 1.643 mL | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (7-Chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetic acid | 184 mg | ClC1=C(C=CC=2C(=COC21)CC(=O)O)OCC2=C(C=C(C=C2)Cl)Cl | C17H11Cl3O4
